US08383821B2
(±)-1-Bromo-3-(1-bromoethyl)-5-fluorobenzene.
To a solution of (±)-1-(3-bromo-5-fluorophenyl)ethanol (1.0 g, 4.6 mmol) and carbon tetrabromide (1.82 g, 5.48 mmol) in tetrahydrofuran (5 mL) at 0° C. was added triphenylphosphine (1.44 g, 5.48 mmol). The resulting solution was stirred at room temperature for 45 min. The reaction was diluted with several volumes of pentane, and filtered to remove the undissolved solids which were discarded. The organics were concentrated and purified by column chromatography (1% ethyl acetate/hexanes) to give 1.26 g (98%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ 7.35 (s, 1H), 7.17 (m, 1H), 7.09 (m, 1H), 5.06 (q, J=7.0 Hz, 1H), 2.00 (d, J=7.0 Hz, 3H); 13C NMR (126 MHz, CDCl3) δ ppm 163.6, 161.6, 147.2 (m), 126.0 (m), 122.8, 122.7, 119.2, 119.0, 113.3, 113.1, 46.5, 26.7.

reactant | (±)-1-(3-bromo-5-fluorophenyl)ethanol | 4.6 mmol, 1.0 g | BrC=1C=C(C=C(C1)F)C(C)O | C8H8BrFO
reactant | carbon tetrabromide | 5.48 mmol, 1.82 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 5.48 mmol, 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | (±)-1-Bromo-3-(1-bromoethyl)-5-fluorobenzene | BrC1=CC(=CC(=C1)F)C(C)Br | C8H7Br2F
